* Z:\home\jambrosio\Desktop\AmpOP\EaD\Q02-QUESTAO2.asc
* Generated by LTspice 24.1.6 for Windows.
V1 x y SINE(0 {Vi} {fi})
D1 x a Dm
D2 y a Dm
D4 0 y Dm
D3 0 x Dm
R1 a 0 {R0}
.model D D
.lib C:\users\steamuser\AppData\Local\LTspice\lib\cmp\standard.dio
.param Vi=150*sqrt(2) fi=80 Von=600m Ron=33m R0=1.1
.model Dm D(ron={Ron} vfwd={Von})
.tran 0 0.3 0.05 10u
* MEDIDAS
.meas VLmed AVG V(a)
.meas VLrms RMS V(a)
.meas ILrms RMS I(R1)
.meas IDmed AVG I(D1)
.meas IDrms RMS I(D1)
.meas Virms RMS V(x)-V(y)
.meas Iirms RMS I(V1)
.meas PD1 PARAM 4*(IDmed*Von+Ron*IDrms*IDrms)
.meas PR PARAM VLrms*ILrms
.meas S PARAM Virms*Iirms
.meas FatorPotencia PARAM PR/S
.meas IRmed AVG I(R1)
.backanno
.end
